US08017611B2
To a solution of tert-butyl 4-[4-[6-amino-5-(1,3-benzoxazol-2-yl)-3-pyridyl]-3-methyl-pyrazol-1-yl]piperidine-1-carboxylate (500 mg) in dichloromethane (3 ml) was added TFA (1 ml). The solution was stirred at 25° C. for 2 hours. The mixture was evaporated to dryness, then the residue was diluted in dichloromethane and ammonia in methanol 7N was added. After removal of solvents, the crude product was purified by flash chromatography on silica gel eluting with 10% methanol in dichloromethane followed by 10 to 25% methanolic ammonia (7 N) in dichloromethane. The solvent was evaporated to dryness to afford a solid which was stirred in acetonitrile overnight, filtered and dried to afford 3-(1,3-benzoxazol-2-yl)-5-[3-methyl-1-(4-piperidyl)pyrazol-4-yl]pyridin-2-amine (290 mg) as a solid; NMR Spectrum: (DMSOd6) 1.77 (dd, 1H), 1.82 (dd, 1H), 1.93-1.99 (m, 2H), 2.12 (bs, 1H), 2.32 (s, 3H), 2.58 (ddd, 1H), 3.01-3.07 (m, 2H), 4.06-4.25 (m, 1H), 7.41-7.48 (m, 2H), 7.64 (bs, 2H), 7.80 (dd, 1H), 7.84 (dd, 1H), 8.04 (s, 1H), 8.28 (d, 1H), 8.35 (d, 1H); Mass spectrum: M+H+: 375

reactant | tert-butyl 4-[4-[6-amino-5-(1,3-benzoxazol-2-yl)-3-pyridyl]-3-methyl-pyrazol-1-yl]piperidine-1-carboxylate | 500 mg | NC1=C(C=C(C=N1)C=1C(=NN(C1)C1CCN(CC1)C(=O)OC(C)(C)C)C)C=1OC2=C(N1)C=CC=C2 | C26H30N6O3
reactant | TFA | 1 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | acetonitrile | C(C)#N | C2H3N
product | 3-(1,3-benzoxazol-2-yl)-5-[3-methyl-1-(4-piperidyl)pyrazol-4-yl]pyridin-2-amine | 290 mg | O1C(=NC2=C1C=CC=C2)C=2C(=NC=C(C2)C=2C(=NN(C2)C2CCNCC2)C)N | C21H22N6O
